US06462198B1
Diphenylacetyl-carbamic acid 3-benzyloxy-propyl ester
The title compound, colorless oil, MS: m/e=403.5 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl isocyanate and 3-benzyloxy-propan-1-ol.

reactant | diphenylacetyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
reactant | 3-benzyloxy-propan-1-ol | C(C1=CC=CC=C1)OCCCO | C10H14O2
product | Diphenylacetyl-carbamic acid 3-benzyloxy-propyl ester | C(C1=CC=CC=C1)OCCCOC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C25H25NO4
